US05110945
1-Azoniabicyclo[3.3.0]oct-1(5)-ene tetrafluoroborate
To a solution of dicyclopropylmethanimine hydrobromide (0.200 g, 1.05 mmol) in 2.0 ml of dimethyl sulfoxide was added 0.232 g (2.10 mmol) of ammonium tetrafluroborate. The mixture was heated with stirring at 100° C. for 2 hours. The solvent was distilled out in vacuo and isobutyl alcohol was added to the residue. Precipitated crystals was obtained and recrystallized from ethanol to afford 0.17 g (Yield: 82%) of the desired compound.

reactant | dicyclopropylmethanimine hydrobromide | 1.05 mmol, 0.200 g | Br.C1(CC1)C(=N)C1CC1
reactant | ammonium tetrafluroborate | 2.10 mmol, 0.232 g | F[B-](F)(F)F.[NH4+]
solvent | dimethyl sulfoxide | 2.0 ml | CS(=O)C | C2H6OS
product | 1-Azoniabicyclo[3.3.0]oct-1(5)-ene tetrafluoroborate | 0.17 g, Yield: 82% | F[B-](F)(F)F.[N+]1=2CCCC2CCC1 | InChI=1S/C7H12N.BF4/c1-3-7-4-2-6-8(7)5-1;2-1(3,4)5/h1-6H2;/q+1;-1
